US06291475B1
(a) N1-(4-Cyanophenyl)-3-chloropropanamide
3-Chloropropionylchloride (1.08 g; 8.5 mmol) was added to a cooled (10° C.) solution of 4-cyanoaniline (1.0 g; 8.5 mmol) and pyridine (0.69 mL; 8.5 mnol) in DCM (40 mL), and the reaction mixture was stirred at rt. for 1 h. The reaction mixture was extracted with HCl (2N), washed with water, dried and concentrated to give the sub-title compound in a 81% yield.

reactant | 3-Chloropropionylchloride | 8.5 mmol, 1.08 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | 4-cyanoaniline | 8.5 mmol, 1.0 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | pyridine | 0.69 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | N1-(4-Cyanophenyl)-3-chloropropanamide | 81% yield | C(#N)C1=CC=C(C=C1)NC(CCCl)=O | C10H9ClN2O
